US08426411B2
To a solution of 3,5-dibromopyrazin-2-amine (10.0 g, 39.5 mmol) in THF (200 mL) was added copper (I) iodide (0.377 g, 1.98 mmol), bis(triphenylphosphine)palladium (II) dichloride (1.39 g, 1.98 mmol) and TEA (16.5 mL, 119 mmol). The reaction mixture was cooled to about 0° C. and degassed with Ar. The reaction mixture was stirred for about 5 min and then the reaction mixture was sparged with propyne and a propyne atmosphere was maintained via balloon. The reaction mixture was stirred for about 30 min at about 0° C. and then was allowed to warm to ambient temperature. The reaction mixture was stirred for about 2 h and then EtOAc (100 mL) and water (100 mL) were added to the reaction mixture. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concd in vacuo. The crude mixture was purified by chromatography on silica gel (120 g) eluting with 10-60% EtOAc in DCM (dry loaded) to provide 5-bromo-3-(prop-1-ynyl)pyrazin-2-amine (7.05 g, 84%) as a yellow solid: LC/MS (Table 1, Method a) Rt=1.79 min; MS m/z: 212, 214 (1:1) (M+H)+.

reactant | 3,5-dibromopyrazin-2-amine | 39.5 mmol, 10.0 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 1.98 mmol, 0.377 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 1.98 mmol, 1.39 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 5-bromo-3-(prop-1-ynyl)pyrazin-2-amine | 7.05 g, 84% | BrC=1N=C(C(=NC1)N)C#CC | C7H6BrN3
